US05030735
Preparation of 2-Phenyl-5-(trifluoromethyl)pyrrole-3-carbonitrile in the presence of a base.
Triethylamine (4.5 g, 0.044 mol) is added dropwise to a mixture of 4-phenyl-2-(trifluoromethyl)-5(2H)-oxazolone (10.0 g, 0.043 mol), 2-chloroacrylonitrile (3.51 g, 0.43 mol) and acetonitrile (50 mL). The temperature of the reaction mixture rises to 65° C. and carbon dioxide gas evolves during the addition. After the addition is complete the reaction mixture is heated at reflux temperature for one hour, cooled to room temperature and poured into water (150 mL). The solids are collected by filtration, air-dried and dried under vacuum at 60° C. to give the title compound as a white solid (10.05 g, 97%). Identified by NMR spectral analyses.

reactant | Triethylamine | 0.044 mol, 4.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-2-(trifluoromethyl)-5(2H)-oxazolone | 0.043 mol, 10.0 g | C1(=CC=CC=C1)C1=NC(OC1=O)C(F)(F)F | C10H6F3NO2
reactant | 2-chloroacrylonitrile | 0.43 mol, 3.51 g | ClC(C#N)=C | C3H2ClN
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 150 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-Phenyl-5-(trifluoromethyl)pyrrole-3-carbonitrile | 10.05 g, 97% | C1(=CC=CC=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H7F3N2
